US05095013
To a solution of allyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (27.0 g, 54.06 mmol) and (E)-3-[(2S,4S)-N-allyloxycarbonyl-4-mercaptopyrrolidin-2-yl]acrylamide (16.63 g, 64.88 mmol) in acetonitrile (405 ml) was dropwise added N,N-diisopropylethylamine (9.42 ml, 54.06 mmol) at -30° C. over 15 minutes. The reaction mixture was stirred at -30° C. for 4 hours and at 5° C. for another 16 hours, partitioned between ethyl acetate (400 ml) and water (400 ml), and the each layer separated. The aqueous layer was treated with ethyl acetate (200 ml) for back extraction, the combined organic layer washed successively with saturated aqueous sodium bicarbonate (300 ml) and saturated aqueous sodium chloride (300 ml), dried over anhydrous sodium sulfate and concentrated. The residue was purified by flash column chromatography on silica gel (Wakogel® C-300, 400 ml; elution with ethyl acetate-acetone 7:3) to afford allyl (1R,5S,6S)-2-[(2S,4S)-N-allyloxycarbonyl-2-[(E)-2-(aminocarbonyl)vinyl]pyrrolidin-4-ylthio]-6-[(R)-1hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (22.64 g, 82.8% yield) as a foam powder.

reactant | allyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 54.06 mmol, 27.0 g | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O)C | C25H26NO8P
reactant | (E)-3-[(2S,4S)-N-allyloxycarbonyl-4-mercaptopyrrolidin-2-yl]acrylamide | 64.88 mmol, 16.63 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)/C=C/C(=O)N | C11H16N2O3S
reactant | N,N-diisopropylethylamine | 54.06 mmol, 9.42 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 405 ml | C(C)#N | C2H3N
product | allyl (1R,5S,6S)-2-[(2S,4S)-N-allyloxycarbonyl-2-[(E)-2-(aminocarbonyl)vinyl]pyrrolidin-4-ylthio]-6-[(R)-1hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 22.64 g, 82.8% yield | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O)C)\C=C\C(=O)N | C24H31N3O7S
